US05866576
This example illustrates a synthesis of 1-(3,4-Oxidobutyl)-3,7-dimethylxanthine (inventive compound no. 2513). Sodium hydride (95%) (1.26 g, 50 mmol) was added to a solution of theobromine (7.2 g, 40 mmol) in dimethylsulfoxide (300 mL). After 20 minutes of stirring, 4-bromobutene (5.4 g, 40 mmol) was added. After 16 hours of stirring at room temperature, the reaction was poured into a separatory funnel containing 1 L of water and extracted with dichloromethane (5×200 mL). The organic extracts were combined, washed with water (100 mL) and brine (100 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude product obtained was further purified by flash chromatography over silica gel using a 20% petroleum ether/ethyl acetate eluant to yield 6.3 g (67.7% yield) 1-(3-Butenyl)-3,7-dimethylxanthine (inventive compound no. 2503) as a white solid.

reactant | Sodium hydride | 50 mmol, 1.26 g | [H-].[Na+]
reactant | theobromine | 40 mmol, 7.2 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | 4-bromobutene | 40 mmol, 5.4 g | BrCCC=C | C4H7Br
reactant | water | 1 L | O | H2O
solvent | dimethylsulfoxide | 300 mL | CS(=O)C | C2H6OS
product | 1-(3-Butenyl)-3,7-dimethylxanthine | 6.3 g, 67.7% yield | C(CC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C11H14N4O2
